US06348474B1
Methyl 3-(4-chloro-2-methoxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
To a solution of 5-bromo-3-(4-chloro-2-methoxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (200 mg) in anhydrous methanol (1.8 ml) and an anhydrous N,N-dimethylformamide (2 ml) were added anhydrous triethylamine (129 mg), palladium acetate (35 mg) and 1,3-bis(diphenylphosiphino)propane (72 mg) and the mixture was placed in an autoclave. After replacing with carbon monoxide 4 times, the mixture was stirred at 85° C. and 10 atm. After 18 hr, the reaction mixture was cooled and water was added. The mixture was extracted with ethyl acetate. The organic layer was washed with water (three times) and saturated brine, then dried over anhydrous magnesium sulfate. The residue was subjected to flash silica gel chromatography (silica gel, 40 ml, eluent: dichloromethane-methanol=50-1) and crystallized from ethanol to give the objective compound (148 mg) as pale-yellow crystals.

reactant | 5-bromo-3-(4-chloro-2-methoxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 200 mg | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)Cl)OC | C15H13BrClN3O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 129 mg | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 1.8 ml | CO | CH4O
catalyst | palladium acetate | 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Methyl 3-(4-chloro-2-methoxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 148 mg | ClC1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=C1)OC | C17H16ClN3O3
